US06043366
8-Cyclodecyl-3-(2-[1,3]dioxolan-2-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride (1:1)
The title compound, white solid, m. p. 205° C. and MS: m/e=470.6 (M+H+) was prepared in accordance with the general method of example 24 from 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride and 2-(2-bromoethyl)-1,3-dioxolane.

reactant | 8-cyclodecyl-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(NCN2C2=CC=CC=C2)=O)CC1
reactant | 2-(2-bromoethyl)-1,3-dioxolane | BrCCC1OCCO1 | C5H9BrO2
product | 8-Cyclodecyl-3-(2-[1,3]dioxolan-2-yl-ethyl)-1-phenyl-1,3,8-triaza-spiro[4,5]decan-4-one hydrochloride | Cl.C1(CCCCCCCCC1)N1CCC2(C(N(CN2C2=CC=CC=C2)CCC2OCCO2)=O)CC1 | InChI=1S/C28H43N3O3.ClH/c32-27-28(16-19-29(20-17-28)24-11-7-4-2-1-3-5-8-12-24)31(25-13-9-6-10-14-25)23-30(27)18-15-26-33-21-22-34-26;/h6,9-10,13-14,24,26H,1-5,7-8,11-12,15-23H2;1H
